US04258058
4-[2-(N-Methylbenzenesulphonylamino)-ethyl]-phenoxyacetic acid.
0.6 g. (25 mMol) Sodium hydride (suspension in mineral oil) are added to a mixture of 9.1 g. (25 mMol) ethyl 4-[2-(benzenesulphonylamino)-ethyl]-phenoxyacetate, 50 ml. hexamethylphosphoric acid triamide and 50 ml. anhydrous toluene and the reaction mixture subsequently stirred for 2 hours at 80° C. The reaction mixture is then cooled, mixed with a mixture of 10.6 g. (75 mMol) methyl iodide and 10 ml. hexamethylphosphoric acid triamide, stirred for 15 minutes at 20° C. and then kept for 3 hours at 80° C. After cooling, the reaction mixture is poured on to ice water, adjusted to pH 3 by means of hydrochloric acid and extracted several times with toluene. The toluene phase is evaporated and the evaporation residue chromatographed on silica gel with the use of toluene. There are obtained 3.9 g. (41% of theory) pure ethyl 4-[2-(N-methylbenzenesulphonylamino)-ethyl]-phenoxyacetate in the form of a colorless oil with the refractive index nD20 =1.5440.

reactant | Sodium hydride | 25 mMol | [H-].[Na+]
reactant | ethyl 4-[2-(benzenesulphonylamino)-ethyl]-phenoxyacetate | 25 mMol | C1(=CC=CC=C1)S(=O)(=O)NCCC1=CC=C(OCC(=O)OCC)C=C1 | C18H21NO5S
reactant | methyl iodide | 75 mMol | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl 4-[2-(N-methylbenzenesulphonylamino)-ethyl]-phenoxyacetate | CN(CCC1=CC=C(OCC(=O)OCC)C=C1)S(=O)(=O)C1=CC=CC=C1 | C19H23NO5S
solvent | hexamethylphosphoric acid triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(N-Methylbenzenesulphonylamino)-ethyl]-phenoxyacetic acid | CN(CCC1=CC=C(OCC(=O)O)C=C1)S(=O)(=O)C1=CC=CC=C1 | C17H19NO5S
